US06495551B1
N-[(5S)-3-(3-Fluoro-4-(4-(N-(pyridin-2-yl)methyl-N-methylaminocarbonyl)-imidazol-1-yl)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide
N-[(5S)-3-(3-fluoro-4-(4-(1-benzotriazolyloxy)carbonylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide (prepared as detailed for Exarnples 49-80; 243 mg, 0.5 mM) dissolved in DMF (4 ml) was treated with 2-(N-methylaminomethyl)pyridine (68 mg, 0.55mM). The mixture was stirred under nitrogen, and heated to 55° for 18 hours. After cooling, the mixture was diluted with saturated sodium bicarbonate solution (20 ml), extracted with ethyl acetate (2×10 ml), the extract washed with water and dried over magnesium sulfate. After evaporation the residue was dissolved in dichloromethane and the solution chromatographed on a 10 g silica Mega Bond Elut® column, eluting with a gradient increasing in polarity from 0 to 20% methanol in dichloromethane. Relevant fractions were combined and evaporated to give title product (52 mg).

reactant | N-[(5S)-3-(3-fluoro-4-(4-(1-benzotriazolyloxy)carbonylimidazol-1-yl)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide | 0.5 mM, 243 mg | FC=1C=C(C=CC1N1C=NC(=C1)C(=O)ON1N=NC2=C1C=CC=C2)N2C(O[C@H](C2)CNC(C)=O)=O | C22H18FN7O5
reactant | 2-(N-methylaminomethyl)pyridine | 0.55mM, 68 mg | CNCC1=NC=CC=C1 | C7H10N2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
product | N-[(5S)-3-(3-Fluoro-4-(4-(N-(pyridin-2-yl)methyl-N-methylaminocarbonyl)-imidazol-1-yl)phenyl)-2-oxooxazolidin-5-ylmethyl]acetamide | 52 mg | FC=1C=C(C=CC1N1C=NC(=C1)C(=O)N(C)CC1=NC=CC=C1)N1C(O[C@H](C1)CNC(C)=O)=O | C23H23FN6O4
